US05059609
6-Methoxy-3-(3-pyridyloxy)-4-chromanone
To a room temperature solution of 3-hydroxypyridine (7.55 g, 0.0778 mol) in dimethylformamide (400 ml) was added in portions 3.74 g (0.0780 mol) of 50% sodium hydride. The mixture was stirred at room temperature for 30 minutes, followed by the addition of 20.0 g (0.0778 mol) of 3-bromo-6-methoxy-4-chromanone all at once. The resulting red-orange mixture was stirred at room temperature for 1 hour, after which tlc (20% ethyl acetate/CH2Cl2) indicated complete conversion of starting material to the more polar products. The reaction mixture was poured into 1.2 liter of H2O, adjusted to pH 8-9 with 1N NaOH and extracted with ethyl acetate (2×800 ml). The combined extracts were washed with H2O and brine, dried over Na2SO4, and concentrated in vacuo to a yellow oil. Purification by flash column chromatography using 2.3 Kg of fine mesh silica gel and eluting with 20% ethyl acetate/CH 2 Cl2 afforded title product as a pale yellow solid in 3.6% yield, m.p. 135°-136° C.

reactant | 3-hydroxypyridine | 0.0778 mol, 7.55 g | OC=1C=NC=CC1 | C5H5NO
reactant | sodium hydride | 0.0780 mol, 3.74 g | [H-].[Na+]
reactant | 3-bromo-6-methoxy-4-chromanone | 0.0778 mol, 20.0 g | BrC1COC2=CC=C(C=C2C1=O)OC | C10H9BrO3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | H2O | 1.2 liter | O | H2O
solvent | ethyl acetate CH2Cl2 | C(C)(=O)OCC.C(Cl)Cl
product | 6-Methoxy-3-(3-pyridyloxy)-4-chromanone | 3.6% yield | COC=1C=C2C(C(COC2=CC1)OC=1C=NC=CC1)=O | C15H13NO4
